US07615552B2
Crude 2,4-Dichloro-6-bromoquinazoline (18.8 g.) was dissolved in dichloromethane (500 mL) and chilled in a dry ice bath. To the solution was added morpholine (11.6 g.) and it was stirred for two hours. The organic layer was washed with saturated ammonium chloride solution (2×200 mL), dried with sodium sulfate, and evaporated. The resulting solid was washed with ether, and dried to give 2-chloro-4-morpholino-6-bromoquinazoline (15.0 g.).

reactant | 2,4-Dichloro-6-bromoquinazoline | 18.8 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)Br | C8H3BrCl2N2
reactant | morpholine | 11.6 g | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 2-chloro-4-morpholino-6-bromoquinazoline | 15.0 g | ClC1=NC2=CC=C(C=C2C(=N1)N1CCOCC1)Br | C12H11BrClN3O
